US07414060B2
3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide
The tide compound, was prepared from 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester and 2-Amino-5-fluoropyridine in accordance with the general method of Example 78, step 2 to yield the final compound as a yellow cristalline solid, MS (ISP): m/e=367.3 (M+H+).

reactant | 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C1CC1)C)C | C16H20N4O2
reactant | 2-Amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
product | 3-(5-Cyclopropyl-2-methyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | FC=1C=CC(=NC1)NC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C1CC1)C)C | C19H19FN6O
